US04147869
10.7 g of 8-amino-5-hydroxy-3,4-dihydrocarbostyril hydrochloride was dissolved in 300 ml of water, and a solution of 4.06 g of potassium cyanide dissolved in 100 ml of water was added thereto while stirring at a temperature of 50° C. After stirring the mixture for one hour at 50° C., the precipitated crystals were recovered by filtration, washed successively with 1 l of water and methanol to obtain 8.75 g of 5-hydroxy-8-ureido-3,4-dihydrocarbostyril as colorless amorphous crystals having a melting point of 209.0°-211.2° C.

reactant | 8-amino-5-hydroxy-3,4-dihydrocarbostyril hydrochloride | 10.7 g | Cl.NC=1C=CC(=C2CCC(NC12)=O)O
reactant | potassium cyanide | 4.06 g | [C-]#N.[K+]
reactant | water | 300 ml | O | H2O
reactant | water | 100 ml | O | H2O
product | 5-hydroxy-8-ureido-3,4-dihydrocarbostyril | 8.75 g | OC1=C2CCC(NC2=C(C=C1)NC(=O)N)=O | C10H11N3O3
